US04724031
4-(2,3-Epoxypropyl)-2,6-dichlorophenyl glycidyl ether
A 100 ml sulfurating flask equipped with stirrer, cooler, thermometer and drip funnel is charged with 13.0 g (0.05 mole) of 4-allyl-2,6-dichlorophenyl glycidyl ether in 40 ml of toluene and 0.5 g of sodium acetate. Over 2 hours, 14.0 g (0.07 mole) of 10% peracetic acid are then added dropwise at 30°-50° C. After the dropwise addition, the reaction mixture is diluted with 300 ml of toluene, the resultant aqueous phase is separated and the organic phase is washed with two 150 ml portions of NaHCO3 (5%) and then washed with 150 ml of water. The organic phase is dried over sodium sulfate and made peroxide-free with sodium sulfite and filtered. The filtrate is concentrated, affording 12.7 g (92.3%) of a pale yellow resin with an epoxide content of 5.62 eq/kg (77.75%) and a viscosity of 280 mPas/25° C.

reactant | 4-allyl-2,6-dichlorophenyl glycidyl ether | 0.05 mole, 13.0 g | C(C1CO1)OC1=C(C=C(C=C1Cl)CC=C)Cl | C12H12Cl2O2
reactant | peracetic acid | 0.07 mole, 14.0 g | C(C)(=O)OO | C2H4O3
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
solvent | sodium acetate | 0.5 g | C(C)(=O)[O-].[Na+]
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
product | 4-(2,3-Epoxypropyl)-2,6-dichlorophenyl glycidyl ether | 12.7 g, 92.3% | C(C1CO1)OC1=C(C=C(C=C1Cl)CC1CO1)Cl | C12H12Cl2O3
